US05559145
This compound was prepared according to the method described in Example 7, except that isopropyl chloroformate was replaced by an equivalent portion of o-fluorobenzoyl chloride and the reaction product was purified by recrystallization from a mixture of hexane/dichloromethane as colourless crystals mp 113.5°-114° C., yield 81%.

reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | o-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | hexane dichloromethane | yield 81% | CCCCCC.ClCCl | InChI=1S/C6H14.CH2Cl2/c1-3-5-6-4-2;2-1-3/h3-6H2,1-2H3;1H2
